US08389539B2
[2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-acetic acid
A mixture of 0.4 g (1.47 mmol) 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one, 0.226 g (1.63 mmol) bromoacetic acid and 0.299 g (2.96 mmol) NEt3 in 50 mL DCM was stirred at room temperature for 16 h. The mixture was concentrated and used without further purification in the consecutive step. MS m/e: 329.3 [M+H]+.

reactant | 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one | 1.47 mmol, 0.4 g | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCNCC2)=O | C17H22N2O
reactant | bromoacetic acid | 1.63 mmol, 0.226 g | BrCC(=O)O | C2H3BrO2
reactant | NEt3 | 2.96 mmol, 0.299 g | CCN(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-acetic acid | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCN(CC2)CC(=O)O)=O | C19H24N2O3
